US08937071B2
To a mixture of N-(6-acetyl-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide (100 mg, 0.167 mmol) in THF (10 mL) was added methylmagnesium bromide (0.167 mL, 0.502 mmol). The mixture was stirred at 0° C. for 2 h under a N2 atmosphere. Then the mixture was added to H2O and extracted with EA. The combined organic extract was washed with brine, dried over MgSO4, filtered and concentrated. The crude material was purified by preparative TLC (DCM/MeOH=15:1, Rf=0.6) to yield a yellow solid of 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(6-(2-hydroxypropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)acetamide (70 mg, 0.086 mmol, 51.1% yield): 1H NMR (400 MHz, CD3OD) δ 8.87 (d, J=2.0 Hz, 1H), 8.45 (d, J=2.0 Hz, 1H), 8.09 (d, J=2.4 Hz, 1H), 7.94 (d, J=2.0 Hz, 1H), 7.44-7.40 (m, 3H), 7.29 (d, J=2.4 Hz, 1H), 6.88 (s, 2H) 6.78 (d, J=2.4 Hz, 1H), 5.35 (s, 2H), 4.17-4.11 (m, 2H), 3.83 (s, 2H), 3.77 (s, 3H), 1.59 (s, 6H), 1.41 (t, J=7.1 Hz, 3H); ES-LCMS m/z 494.2 (M-PMB+H).

reactant | N-(6-acetyl-5-(trifluoromethyl)pyridin-3-yl)-2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)acetamide | 0.167 mmol, 100 mg | C(C)(=O)C1=C(C=C(C=N1)NC(CC1=C(C=C(C=C1)C=1C=NC(=C(C1)OCC)OCC1=CC=C(C=C1)OC)F)=O)C(F)(F)F | C31H27F4N3O5
reactant | methylmagnesium bromide | 0.502 mmol, 0.167 mL | C[Mg]Br
reactant | H2O | O | H2O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 2-(4-(5-ethoxy-6-((4-methoxybenzyl)oxy)pyridin-3-yl)-2-fluorophenyl)-N-(6-(2-hydroxypropan-2-yl)-5-(trifluoromethyl)pyridin-3-yl)acetamide | 0.086 mmol, 70 mg, 51.1% yield | C(C)OC=1C=C(C=NC1OCC1=CC=C(C=C1)OC)C1=CC(=C(C=C1)CC(=O)NC=1C=NC(=C(C1)C(F)(F)F)C(C)(C)O)F | C32H31F4N3O5
